US05140026
N-[2-(Diethylamino)ethyl]-S-methyl-S-(3-thienyl)sulfoximine.
A solution of S-methyl-S-(thien-3-yl)sulfoximine (Maybridge, 2.56 g, 15.9 mmol) in dimethylformamide (15 mL) was added dropwise to a slurry of sodium hydride (0.76 g, 19.0 mmol, 60% oil dispersion, washed (3×8 mL) hexane) in dimethylformamide (10 mL) at 0° C. The solution was allowed to warm to ambient temperature and was stirred at ambient temperature for 0.5 h. The resulting mixture was cooled to 0° C. and a solution of 1-chloro-2-diethylaminoethane (2.14 g, 15.9 mmol) in dimethylformamide (15 mL) was added dropwise. The reaction mixture was stirred at ambient temperature for 15 h. Water (1 mL) was added and the reaction mixture was concentrated in vacuo. The residue was partitioned between water (25 mL) and methylene chloride (25 mL). The layers were separated and the aqueous layer was extracted with methylene chloride (2×25 mL). The combined organic extracts were washed (saturated sodium chloride), dried (MgSO4), and concentrated in vacuo to afford 3.9 g of residue. The residue was chromatographed (flash, SiO2, 9:1:0 to 9:1:1 methylene chloride/methanol/concentrated ammonium hydroxide) to give an oil that was partitioned between water (15 mL) and methylene chloride (15 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. The oil partially solidified on standing.

reactant | S-methyl-S-(thien-3-yl)sulfoximine | 15.9 mmol, 2.56 g | CS(=O)(=N)C1=CSC=C1 | C5H7NOS2
reactant | sodium hydride | 19.0 mmol, 8 mL, 0.76 g | [H-].[Na+]
reactant | hexane | 8 mL | CCCCCC | C6H14
reactant | 1-chloro-2-diethylaminoethane | 15.9 mmol, 2.14 g | ClCCN(CC)CC | C6H14ClN
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | Water | 1 mL | O | H2O
product | N-[2-(Diethylamino)ethyl]-S-methyl-S-(3-thienyl)sulfoximine | 3.9 g | C(C)N(CCN=S(=O)(C1=CSC=C1)C)CC | C11H20N2OS2
